US04502882
N-[(4,6-Dimethoxy-1,3,5-triazin-2-yl)aminocarbonyl]-1,4-benzodithian-5-sulfonamide
To a solution of 2.5 g 1,4-benzodithian-5-sulfonamide, prepared in Example 16, in 50 ml methylene chloride at ambient temperature under nitrogen is added 5.5 ml trimethylaluminum (2M in toluene). After stirring 15 minutes at ambient temperature 2.0 g of methyl [4,6-Dimethoxy-1,3,5-triazin-2-yl]carbamate, prepared according to the procedure of Example 3 is added and the reaction mixture is heated at reflux for 16 hours. The reaction mixture is cooled to ambient temperature and 75 ml water, 10 ml glacial acetic acid, and 10 drops hydrochloric acid are sequentially added. The organic phase is separated, dried and the solvent removed under reduced pressure to give an oil. Crystallization of the oil from an appropriate organic solvent gives a solid.

reactant | 1,4-benzodithian-5-sulfonamide | 2.5 g | S1CCSC2=C1C=CC=C2S(=O)(=O)N | C8H9NO2S3
reactant | trimethylaluminum | 2M, 5.5 ml | C[Al](C)C
reactant | methyl [4,6-Dimethoxy-1,3,5-triazin-2-yl]carbamate | 2.0 g | COC1=NC(=NC(=N1)OC)NC(OC)=O | C7H10N4O4
reactant | water | 75 ml | O | H2O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
catalyst | hydrochloric acid | 10 drops | Cl | ClH
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | N-[(4,6-Dimethoxy-1,3,5-triazin-2-yl)aminocarbonyl]-1,4-benzodithian-5-sulfonamide | COC1=NC(=NC(=N1)OC)NC(=O)NS(=O)(=O)C1=CC=CC=2SCCSC21 | C14H15N5O5S3
